datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO[C:63]1=[C:62]([N:61]2[C-:10]=[N+:71](C)[CH:73]=[CH:72]2)[C:67](OC)=[CH:66][CH:65]=[CH:64]1.Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:36](Cl)=[C:35](Cl)[C:33](Cl)=[C:32]1Cl>>CO[C:63]1=[C:62]([N:61]2[C:10]([Cl:20])=[N+:71](C)[CH:73]=[CH:72]2)[C:67](OC)=[CH:66][CH:65]=[CH:64]1.Cl[C:21]1=[C:22]([O-:23])[C:36](Cl)=[C:35](Cl)[C:33](Cl)=[C:32]1Cl 10=20;20,21=21,22;22,23=23"
"CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](N)=[O:25])=[O:32].C[Si:72](C)(C)[O:12][C:11](=[CH2:10])[C:62]1=[C:63](F)[C:64](F)=[C:65](F)[C:84](F)=[C:83]1F>>CC[O:33][C:31]([CH:20]([CH2:10][C:11](=[O+:12][Si:72](C)(C)C)[C:62]1=[C:63](F)[C:64](F)=[C:65](F)[C:84](F)=[C:83]1F)[C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC(O)C[NH2:10]>>CC(O)C[NH2+:10][CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].C[C:63]([NH:12][C:11]1=[CH:10]CCC1)=[O:64]>>C[C:22](=[CH:21][CH:20]([CH:10]1CCC[C:11]1=[NH+:12][C:63](C)=[O:64])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[N+](CC)(CC)[BH-:11](Br)[H:10].C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[C:32](C)[N:33](C)[C:42]2=[C:41]1C=CC=C2>>CC[N+](CC)(CC)[BH:11]Br.C[C:22]1=[C:21]([CH:20]([H:10])[C:31]2=[C:32](C)[N:33](C)[C:42]3=[C:41]2C=CC=C3)C2=C(C=CC=C2)[N:23]1C 10,11=10,20;20,21=21,22;22,23=23"
"C/[CH:10]=[CH:11]/[CH2:62][Si:63](C)(C)C.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N3CCOCC3)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10](C)[CH+:11][CH2:62][Si:63](C)(C)C)[C:21](C[N+]2=CC=C(N3CCOCC3)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10,11=10,20;20,21=21,22;22,23=23"
"CC[OH:10].[C:20](=[S:21])=[S:31]>>CC[OH+:10][C:20]([S-:21])=[S:31] 10=20;20,21=21"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1.N#CC1=CC=C([S:61]([CH-:10]Cl)(=[O:62])=[O:72])C=C1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10](Cl)[S:61](C2=CC=C(C#N)C=C2)(=[O:62])=[O:72])[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"N#C/[CH:20]=[CH:21]/[C:22]#[N:23].[N-:10]1[CH:61]=[CH:62][N:72]=[CH:71]1>>N#C[CH:20]([N:10]1[CH:61]=[CH:62][N:72]=[CH:71]1)[CH:21]=[C:22]=[N-:23] 10=20;20,21=21,22;22,23=23"
"C1C[C:20](=[O:21])CCO1.C[O:86][C:85]1=[CH:84][CH:83]=[C:82]([Si:11]([H:10])([CH3:62])[CH3:72])[CH:94]=[CH:93]1>>C1C[C:20]([H:10])([O-:21])CCO1.C[O:86][C:85]1=[CH:84][CH:83]=[C:82]([Si+:11]([CH3:62])[CH3:72])[CH:94]=[CH:93]1 10,11=10,20;20,21=21"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH:10]2CC2)[O:12]1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]2CC2)[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.CC(C)(C)[O:94][C:83]([N:12]1[CH:11]=[C:10]([B-:72](F)(F)F)[C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2)=[O:84]>>CC(C)(C)[O:94][C:83]([N+:12]1=[CH:11][C:10]([CH:20]([CH:21]=[CH:22][N:23]2CCCCC2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)([B-:72](F)(F)F)[C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2)=[O:84] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:72][C:61]([C:10](C)=[P:11](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=[O:62].FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].CC[O:72][C:61]([C:10](C)([P+:11](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[S:20]C(F)(F)F)=[O:62] 10,11=10,20;20,21=21,22;22,23=23"
"C[Ge:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Sn:73](C)(C)C.[CH2:20]=[CH:21][C:22]#[N:23]>>C[Ge:63](C)(C)[CH2:62][CH+:11][CH2:72][Sn:73](C)(C)C.[H:10][CH2:20][CH:21]=[C:22]=[N-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C/[C:11](=[CH:10]/[N+:61]#[N:62])[O-:12].CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]23CCC(CC2)CC3)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([C:11](C)=[O:12])[N+:61]#[N:62])[C:21](C[N+]23CCC(CC2)CC3)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
